US08026234B2
Compound 143: 9-Cyclopentyl-2-(2,5-difluorophenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one (50 mg, 0.16 mmol), 2,5-difluoroaniline (31 mg, 0.24 mmol), i-PrOH (2 mL) and conc. HCl (5 drops) were heated to 100° C. overnight to give the title compound. The final compound was purified by reverse phase HPLC and basified to give the free base (20 mg, 31%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23-1.85 (m, 11H) 4.02 (t, J=14 Hz, 2H) 4.68 (d, J=8 Hz, 1H) 6.88 (t, J=8 Hz, 1H) 7.26 (td, J=10, 6 Hz, 1H) 7.74-7.96 (m, 1H) 8.24 (s, 1H) 9.04 (br. s., 1H). [M+H] calc'd for C19H19F4N5O, 410. found 410.

reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | 0.16 mmol, 50 mg | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 2,5-difluoroaniline | 0.24 mmol, 31 mg | FC1=C(N)C=C(C=C1)F | C6H5F2N
catalyst | HCl | 5 drops | Cl | ClH
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 9-Cyclopentyl-2-(2,5-difluorophenylamino)-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=CC(=C2)F)F | C19H19F4N5O
